US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(2-methoxyphenyl)piperidine
A mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (34 mg, 0.15 mmol), 3-(2-methoxyphenyl)piperidine HCl (38 mg, 0.165 mmol) and triethylamine (41 mg, 0.39 mmol) in acetonitrile (2 mL) was heated in a microwave reactor at 110-150° C. for 90 min. After evaporation to dryness, the crude product was purified by flash chromatography using a gradient of heptane and EtOAc as eluent to give 12 mg of the title compound.

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 0.15 mmol, 34 mg | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 3-(2-methoxyphenyl)piperidine HCl | 0.165 mmol, 38 mg | Cl.COC1=C(C=CC=C1)C1CNCCC1
reactant | triethylamine | 0.39 mmol, 41 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(2-methoxyphenyl)piperidine | 12 mg | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C2=C(C=CC=C2)OC | C21H25NO3
